US06297260B1
50a. 3-Chloro-2-oxopropyl 3-methyl-3-[(2,4,6-trimethoxyphenyl)methylthio]butanoate
To a mixture of 3-methyl-3-[(2,4,6-trimethoxyphenyl)methylthio]butanoic acid (3 g, 9.54 mmol) and sodium bicarbonate (975 mg, 11.6 mmol) in DMF (30 mL) was added a solution of 1,3-dichloroacetone (4.23 g, 33.4 mmol) in DMF (15 mL) at 0° C. under nitrogen. The reaction mixture was allowed to warm to room temperature, and stirred for 48 hours. The residue after evaporation of the solvent was partitioned between EtOAc and H2O. The organic phase was washed with water and brine, dried over MgSO4, filtered, and concentrated. The residue was chromatographed on silica gel eluting with EtOAc:Hex (20-30%) to give the title compound as a yellow oil (2.19 g, 57%). 1H NMR (300 MHz, CDCl3) δ 6.12 (s, 2H), 4.87 (s, 2H), 4.21 (s, 2H), 3.86-3.80 (mult, 11H), 2.83 (s, 2H), 1.52 (s, 6H); 13C NMR (75 MHz, CDCl3) δ 196.5, 170.1, 160.4, 158.6, 107.3, 90.7, 66.4, 55.8, 55.3, 46.3, 45.9, 43.8, 28.2, 20.9; mass spectrum (API-TIS) m/z 422 (M+NH4).

reactant | 3-methyl-3-[(2,4,6-trimethoxyphenyl)methylthio]butanoic acid | 9.54 mmol, 3 g | CC(CC(=O)O)(C)SCC1=C(C=C(C=C1OC)OC)OC | C15H22O5S
reactant | sodium bicarbonate | 11.6 mmol, 975 mg | C([O-])(O)=O.[Na+]
reactant | 1,3-dichloroacetone | 33.4 mmol, 4.23 g | ClCC(=O)CCl | C3H4Cl2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-2-oxopropyl 3-methyl-3-[(2,4,6-trimethoxyphenyl)methylthio]butanoate | 2.19 g, 57% | CC(CC(=O)OCC(CCl)=O)(C)SCC1=C(C=C(C=C1OC)OC)OC | C18H25ClO6S
